US04155913
1 g of 7-chloro-5-(o-chlorophenyl)-1,3-dihydro-2H-thieno[2,3-e]-1,4-diazepine-2-thione is refluxed for 1.5 hours in 50 ml of absolute methanol with 2 g of lactic acid hydrazide. The precipitated 7-chloro-5-(o-chlorophenyl)-2-(2-lactoylhydrazino)-3H-thieno[2,3-e]-1,4-diazepine is dried and refluxed for 4 hours in 120 ml of absolute xylene. The solution is evaporated and the product recrystallized from ethyl acetate containing active carbon to yield 2-chloro-4-(o-chlorophenyl)-9-(α-hydroxyethyl)-6H-thieno[3,2-f]-s- triazolo[4,3-a][1,4]diazepine of melting point 118°-120° C.

reactant | 7-chloro-5-(o-chlorophenyl)-1,3-dihydro-2H-thieno[2,3-e]-1,4-diazepine-2-thione | 1 g | ClC1=CC2=C(NC(CN=C2C2=C(C=CC=C2)Cl)=S)S1 | C13H8Cl2N2S2
reactant | lactic acid hydrazide | 2 g | C(C(O)C)(=O)NN | C3H8N2O2
solvent | methanol | 50 ml | CO | CH4O
product | 2-chloro-4-(o-chlorophenyl)-9-(α-hydroxyethyl)-6H-thieno[3,2-f]-s- triazolo[4,3-a][1,4]diazepine | ClC1=CC=2C(=NCC=3N(C2S1)C(=NN3)C(C)O)C3=C(C=CC=C3)Cl | C16H12Cl2N4OS
